US07288541B2
73 mg (0.18 mmol) of N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride & N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride was slurried in 3.5 mL of anhydrous dimethylformamide. Addition of 80 mg (0.18 mmol) of (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 4-nitrophenyl carbonate followed by 0.14 mL (0.72 mmol) of diisopropylethylamine resulted in a light yellow solution, which was stirred for 3 d. It was then concentrated under reduced pressure. The resulting residue was dissolved in ethyl acetate, and the solution was washed with a saturated aqueous sodium bicarbonate solution., dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue was purified by silica gel chromatography eluting with a methanol:chloroform solution (1:9) to afford 54 mg (50%) of (1 S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate & (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S)-1-{(1S)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate. ES-LCMS n/z 622 (M+Na) retention time=3.96 min.

reactant | N-[(2S,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride | 0.18 mmol, 73 mg | Cl.N[C@H]([C@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC
reactant | N-[(2R,3S)-3-amino-2-hydroxyheptyl]-2-pyridinesulfonamide hydrochloride | Cl.N[C@H]([C@@H](CNS(=O)(=O)C1=NC=CC=C1)O)CCCC
reactant | (1S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl 4-nitrophenyl carbonate | 0.18 mmol, 80 mg | C(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)(OC2=CC=C(C=C2)[N+](=O)[O-])=O | C20H19Cl2N3O5
reactant | diisopropylethylamine | 0.72 mmol, 0.14 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
product | (1 S)-1-[(5,6-dichloro-1H-benzimidazol-1-yl)methyl]-2,2-dimethylpropyl (1S)-1-{(1R)-1-hydroxy-2-[(2-pyridinylsulfonyl)amino]ethyl}pentylcarbamate | 54 mg, 50% | O[C@H](CNS(=O)(=O)C1=NC=CC=C1)[C@H](CCCC)NC(O[C@@H](C(C)(C)C)CN1C=NC2=C1C=C(C(=C2)Cl)Cl)=O | C26H35Cl2N5O5S
